US04840948
1-(4-Hydroxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
A mixture of 5 g (12.3 mM) of 1-(4-hydroxystyryl)-3-methyl-6,7-methylenedioxy-2-benzopyrylium perchlorate (m.p. 306° to 308° C. d.), 100 ml of 99.5% ethanol and 1.85 ml (36.9 mM) of 100% hydrazine hydrate are refluxed for one hour. The end-product is beginning to precipitate already in the first minutes of the reaction. The mixture is evaporated at reduced pressure, the partially crystalline residue is suspended in 100 ml of water, the crystals are filtered, washed with 3×10 ml of water, the crude product is resuspended in 300 ml of hot water, stirred for 30 minutes, filtered hot, washed with 2×20 ml of hot water and dried at 80° to 100° C. Yield 2.18 g, m.p. 243 to 248° C. d. For further purification this product is refluxed in 10 ml of 99.5% of ethanol, filtered after cooling, washed with 3×2 ml of ethanol and dried. Yield 2.08 g (52.8%), m.p. 246° to 248° C. (decomp.).

reactant | 1-(4-hydroxystyryl)-3-methyl-6,7-methylenedioxy-2-benzopyrylium perchlorate | 12.3 mM, 5 g | Cl(=O)(=O)(=O)[O-].OC1=CC=C(C=C[CH2+]2OC(=CC3=C2C=C2C(=C3)OCO2)C)C=C1
reactant | hydrazine hydrate | 36.9 mM, 1.85 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(4-Hydroxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | OC1=CC=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=C1 | C19H16N2O3
